US06800637B2
N-[3-(5-Fluoro-1-benzothien-3-yl)propyl]-N-{[(2S)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl}amine
A mixture of [(2R)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl 4-bromobenzenesulfonate (151 mg, 0.669 mmol) and 3-(5-fluoro-benzo[b]thiophen-3-yl)-propylamine (140 mg, 0.335 mmol) in anhydrous dimethylsulfoxide (7 mL) was stirred at ambient temperature for three days without any apparent reaction occurring. The reaction was then heated at 40° C. for two days, resulting in complete conversion. The cooled reaction was diluted with saturated aqueous sodium bicarbonate (35 mL) and extracted with ethyl acetate (3×35 mL). The combined organic layers were washed with brine (40 mL), dried over anhydrous sodium sulfate, filtered, and concentrated in vacua. Flash chromatography on silica gel (2/2/96 methanol/2 M ammonia in methanol/methylene chloride) afforded 90 mg (63%) of the title compound as a yellow viscous oil, which was converted to its fumarate salt as a yellow solid: mp 117-120° C.; MS (ES) m/z 423 [M+H]+; [α]D −29.1° (c 0.94, DMSO)

reactant | [(2R)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl 4-bromobenzenesulfonate | 0.669 mmol, 151 mg | BrC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C19H16BrNO5S
reactant | 3-(5-fluoro-benzo[b]thiophen-3-yl)-propylamine | 0.335 mmol, 140 mg | FC1=CC2=C(SC=C2CCCN)C=C1 | C11H12FNS
solvent | dimethylsulfoxide | 7 mL | CS(=O)C | C2H6OS
solvent | sodium bicarbonate | 35 mL | C([O-])(O)=O.[Na+]
product | N-[3-(5-Fluoro-1-benzothien-3-yl)propyl]-N-{[(2S)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl}amine | 90 mg, 63% | FC=1C=CC2=C(C(=CS2)CCCNC[C@H]2COC=3C(=C4C=CC(=NC4=CC3)C)O2)C1 | C24H23FN2O2S
